US04749713
A solution containing α-bromo-4-toluonitrile (11.0 g), 1-(dimethylcarbamoyl)-4-methylimidazole (8.6 g) and sodium iodide (8.4 g) in acetonitrile (75 mL) is heated and stirred at reflux for 15 hours. The mixture is cooled to 0° (ice-bath) and ammonia gas is bubbled through the solution for 15 minutes. The volatiles are then evaporated and the residue is partitioned between water (150 mL) and ethyl acetate (150 mL). The organic solution is washed with water (2×50 mL) and is then extracted with 3N hydrochloric acid. The combined acidic extracts are made basic (pH 9) with 6N sodium hydroxide and the product is extracted into ethyl acetate (3×60 mL). After drying (MgSO4 solvent evaporation affords crude 4-[1-(5-methylimidazolyl)methyl] benzonitrile which forms a hydrochloride salt, m.p. 203°-205°, when its solution in acetone is treated with ethereal HCl.

reactant | α-bromo-4-toluonitrile | 11.0 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | 1-(dimethylcarbamoyl)-4-methylimidazole | 8.6 g | CN(C(=O)N1C=NC(=C1)C)C | C7H11N3O
reactant | sodium iodide | 8.4 g | [I-].[Na+]
reactant | ammonia | N | H3N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 4-[1-(5-methylimidazolyl)methyl] benzonitrile | CC1=CN=C(N1)CC1=CC=C(C#N)C=C1 | C12H11N3
